US08629133B2
Methyl 5-amino-2,6-anhydro-3,4,5-trideoxy-L-erythro-hexonate hydrochloride
4N hydrochloric acid/1,4-dioxane solution (20 ml) was added to a methanol (5 ml) solution of 2,6-anhydro-5-[(tert-butoxycarbonyl)amino]-3,4,5-trideoxy-L-erythro-hexonic acid (Eur. J. Org. Chem., 2003, 2418-2427) (1.00 g, 4.08 mmol) at room temperature and the resulting mixture was stirred for 20 hours. The reaction mixture was concentrated under reduced pressure to give 0.80 g (100%) of the title compound.

reactant | hydrochloric acid 1,4-dioxane | 4N, 20 ml | Cl.O1CCOCC1
reactant | 2,6-anhydro-5-[(tert-butoxycarbonyl)amino]-3,4,5-trideoxy-L-erythro-hexonic acid | 4.08 mmol, 1.00 g | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@@H](C(=O)O)OC1 | C11H19NO5
solvent | methanol | 5 ml | CO | CH4O
product | Methyl 5-amino-2,6-anhydro-3,4,5-trideoxy-L-erythro-hexonate hydrochloride | 0.80 g, 100% | Cl.N[C@@H]1CC[C@@H](C(=O)OC)OC1 | InChI=1S/C7H13NO3.ClH/c1-10-7(9)6-3-2-5(8)4-11-6;/h5-6H,2-4,8H2,1H3;1H/t5-,6+;/m1./s1
